US04008273
Preparation of 1-t-Butylazo-1-phenylcyclohexane
To a clean, dry 250 ml. round bottom + neck flask equipped with a magnetic stirrer, thermometer, condenser and addition funnel, which was being purged with nitrogen, was added an ether solution containing .06 moles of phenylmagnesium bromide. The solution was cooled to 5° C. and a solution of 8.7 g. (.043 moles) of 1-t-butylazo-1-chlorocyclohexane in 50 ml. of ether was added dropwise over 1/2 hour. After the addition was complete, the reaction was stirred for 15 minutes at room temperature and the excess phenylmagnesium bromide destroyed by the addition of wet ether. The reaction mixture was poured into 200 ml. of cold water and the ether layer separated, washed with 5% HCl, saturated sodium bicarbonate solution, saturated sodium chloride solution, dired over anhydrous sodium sulfate, filtered and the ether removed on a rotating evaporator leaving 9.75 g. (93%) of a yellow liquid. The infrared spectrum of the product was in agreement with the structure of the title compound.

reactant | phenylmagnesium bromide | .06 moles | C1(=CC=CC=C1)[Mg]Br
reactant | 1-t-butylazo-1-chlorocyclohexane | .043 moles | C(C)(C)(C)N=NC1(CCCCC1)Cl | C10H19ClN2
solvent | ether | CCOCC | C4H10O
product | 1-t-Butylazo-1-phenylcyclohexane | C(C)(C)(C)N=NC1(CCCCC1)C1=CC=CC=C1 | C16H24N2
